US06011044
Preparation of 1-(2-methoxyphenyl)-4-[(3-hydroxypropyl)amino]-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline
1-(2-Methoxyphenyl)-4-chloro-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline(600 mg, 1.5 mmol) was dissolved in 3-amino-1-propanol(6 ml) in the pressure tube, and reacted at the same condition of Step 3 in the Example 12 to obtain 570 mg of desired compound as solid in 88% of yield.

reactant | 1-(2-Methoxyphenyl)-4-chloro-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 1.5 mmol, 600 mg | COC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)Cl | C19H14ClF3N2O2
reactant | 3-amino-1-propanol | 6 ml | NCCCO | C3H9NO
product | 1-(2-methoxyphenyl)-4-[(3-hydroxypropyl)amino]-6-trifluoromethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 570 mg | COC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OC(F)(F)F)NCCCO | C22H22F3N3O3
